US07253165B2
Synthesis of (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(4-methyl-benzylamino)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and 4-methylbenzylamine in ethanol, essentially as described above in Example 70. Purity by LC/MS=100%, [M+H]+=407.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | 4-methylbenzylamine | CC1=CC=C(CN)C=C1 | C8H11N
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(4-methyl-benzylamino)-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@@H](CNCC3=CC=C(C=C3)C)O)C=C2)C=C1 | C24H23FN2O3
